US08877742B2
4-chloro-3-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridine
In a round bottom flask under N2 gas, 4-chloro-3-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine (D12) (1.48 g, 5.06 mmol) was dissolved in THF (25 mL) and cooled to 0° C. To this was added NaH (0.405 g, 10.12 mmol) portion wise. After 30 minutes of stirring, methyl iodide (0.633 mL, 10.12 mmol) was added and the reaction mixture was stirred at 0° C. for 30 mins and at RT for 1 hour.

reactant | 4-chloro-3-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine | 5.06 mmol, 1.48 g | ClC1=C2C(=NC(=C1)C)NC=C2I | C8H6ClIN2
reactant | NaH | 10.12 mmol, 0.405 g | [H-].[Na+]
reactant | methyl iodide | 10.12 mmol, 0.633 mL | CI | CH3I
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-chloro-3-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC(=C1)C)N(C=C2I)C | C9H8ClIN2
